US09340510B2
4-Methyl-2-propionylamino-thiazole-5-carboxylic acid
13.4 g (84.7 mmol) 2-Amino-4-methyl-thiazole-5-carboxylic acid and 35.8 mL (279 mmol) propionic anhydride in 90 mL propionic acid are stirred at 100° C. over night. The resulting mixture is cooled to r.t., 200 mL water are added and stirred for 30 min. The precipitate is filtered off and treated with 200 mL water. After stirring for 30 min the precipitate is filtered off, washed with water and dried at 50° C.

reactant | 2-Amino-4-methyl-thiazole-5-carboxylic acid | 84.7 mmol, 13.4 g | NC=1SC(=C(N1)C)C(=O)O | C5H6N2O2S
reactant | propionic anhydride | 279 mmol, 35.8 mL | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | water | 200 mL | O | H2O
solvent | propionic acid | 90 mL | C(CC)(=O)O | C3H6O2
product | 4-Methyl-2-propionylamino-thiazole-5-carboxylic acid | CC=1N=C(SC1C(=O)O)NC(CC)=O | C8H10N2O3S
